US09427475B2
Step C: 3-({6-[({bis[2-oxo-2-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)ethyl]amino}acetyl)amino]hexanoyl}amino)-N-[(9H-fluoren-9-ylmethoxy)carbonyl]-L-alanine
To a stirred solution of pentafluorophenyl 6-[({bis[2-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-2-oxoethyl]amino}acetyl)amino]hexanoate (270 mg, 0.318 mmol) in DMF at 0° C. was added 3-amino-N-[(9H-fluoren-9-ylmethoxy)carbonyl]-L-alanine hydrochloride (303 mg, 0.306 mmol) and, 5 min later, DIPEA (111 μL, 0.636 mmol). After stirring at 0° C. for 2 hr, the reaction mixture was concentrated and the residue was purified by flash chromatography on silica gel (22 g), eluting first with 100 mL of EtOAc and then 0-20% of Solvent B in Solvent A (Solvent A: v/v EtOAc/MeOH/AcCN/H2O: 6/1/1/1; Solvent B v/v EtOAc/MeOH/AcCN/H2O: 2/1/1/1) to afford the title compound. LC-MS Method A: m/e=991.66 [M+1]; Rt=1.84 min.

reactant | pentafluorophenyl 6-[({bis[2-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-2-oxoethyl]amino}acetyl)amino]hexanoate | 0.318 mmol, 270 mg | [C@@H]1([C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)OCCNC(CN(CC(NCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)=O)CC(=O)NCCCCCC(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O | C34H49F5N4O15
reactant | 3-amino-N-[(9H-fluoren-9-ylmethoxy)carbonyl]-L-alanine hydrochloride | 0.306 mmol, 303 mg | Cl.NC[C@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)O
reactant | DIPEA | 0.636 mmol, 111 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-({6-[({bis[2-oxo-2-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)ethyl]amino}acetyl)amino]hexanoyl}amino)-N-[(9H-fluoren-9-ylmethoxy)carbonyl]-L-alanine | O=C(CN(CC(=O)NCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)CC(=O)NCCCCCC(=O)NC[C@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)O)NCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C | C46H66N6O18
